US06630600B1
3-(4-Benzyloxyphenyl)-2-hydroxypropanoic acid methyl ester was reacted with phenol using the same method as in Example 38(c) to give 3-(4-benzyloxyphenyl)-2-phenoxypropanoic acid methyl ester.

reactant | 3-(4-Benzyloxyphenyl)-2-hydroxypropanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)=O | C17H18O4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 3-(4-benzyloxyphenyl)-2-phenoxypropanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=CC=C1)=O | C23H22O4
